US07635684B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-azidopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole (1.6 g) in tetrahydrofuran (25 mL) was added 10% palladium-carbon powder (300 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (1.5 g).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-azidopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole | 1.6 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCN=[N+]=[N-])C(C)C | C30H39N5O11
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 300 mg | [C].[Pd]
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole | 1.5 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCN)C(C)C | C30H41N3O11
